US04772600
2-(3-Bromophenyl)-3-[2-oxo-2-(1-piperidinyl)ethyl]-3H-imidazo[4,5-b]pyridine
Under nitrogen bubbling, a mixture of 2-(3-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (4.98 g, 0.015 mole) and 1,1'-carbonyldiimidazole (2.59 g, 0.016 mole) in 120 ml of tetrahydrofuran was stirred at room temperature for 4 hrs. The piperidine (2.55 g, 0.03 mole) was added and the reaction mixture was allowed to stir at room temperature overnight. The reaction mixture was filtered and the filtrate was evaporated to dryness, then placed under high vacuum for 3 hrs. The solid was treated with water, collected by filtration, washed with water, and dried at 50° C. under high vacuum over the weekend to give 3.93 g (66%) of title compound, mp 157°-58° C.

reactant | 2-(3-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.015 mole, 4.98 g | BrC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10BrN3O2
reactant | 1,1'-carbonyldiimidazole | 0.016 mole, 2.59 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | piperidine | 0.03 mole, 2.55 g | N1CCCCC1 | C5H11N
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 2-(3-Bromophenyl)-3-[2-oxo-2-(1-piperidinyl)ethyl]-3H-imidazo[4,5-b]pyridine | 3.93 g, 66% | BrC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(N1CCCCC1)=O | C19H19BrN4O
